US05879894
N-[3-(1.3-Dioxolan-2-yl)phenyl]isatin
A solution of isatin (5.0 g, 34.0 mmol) in anhydrous N. N-dimethyl formamide (150 ml) was treated with sodium hydride (60% dispersion, 1.632 g, 40.8 mmol) with stirring at room temperature for 20 minutes until the formation of hydrogen gas ceased. To the mixture was added cupric iodide (12.9 g, 68.0 g) followed by 3-(1,3-dioxolan-2-yl)bromobenzene (15.57 g, 68.0 mmol). After 8 hours of stirring at 150° C. under nitrogen, the brown mixture was cooled to room temperature, and then treated with chloroform (750 ml). The resulting mixture was filtered to remove the precipitate. The filtrate was evaporated under reduced pressure to dryness to afford a brown solid.

reactant | isatin | 34.0 mmol, 5.0 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 40.8 mmol, 1.632 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-(1,3-dioxolan-2-yl)bromobenzene | 68.0 mmol, 15.57 g | O1C(OCC1)C=1C=C(C=CC1)Br | C9H9BrO2
solvent | chloroform | 750 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(1.3-Dioxolan-2-yl)phenyl]isatin | O1C(OCC1)C=1C=C(C=CC1)N1C(=O)C(=O)C2=CC=CC=C12 | C17H13NO4
